US06479480B1
To a solution of 1.1 g (3.8 mmol) of 2-phenyl-3-(piperidin-2(R)-ylmethyl)-1H-indole and 238 mg (3.8 mmol) of sodium cyanoborohydride in methanol (20 ml) at 0° C. was added a solution of formaldehyde (527 mg of a 37% w/w aqueous solution) and glacial acetic acid (0.5 ml, 8.7 mmol) in methanol (10 ml). After stirring at room temperature for 3 hr the reaction was evaporated in vacuo. The residue was partitioned between saturated potassium carbonate (20 ml) and EtOAc (20 ml), the organic layer separated, and the aqueous layer extracted with EtOAc (2×20 ml). The combined EtOAc layers were washed with water (50 ml), saturated sodium chloride (50 ml), dried over MgSO4 and evaporated in vacuo. The residue was purified by column chromatography (SiO2; 5% MeOH in CH2Cl2+0.5% NH3) and the product recrystallised from Et2O/hexanes to afford 210 mg (0.7 mmol; 18%) of 3-(1-methylpiperidin-2(R)-ylmethyl)-2-phenyl-1H-indole as a white solid. (Found: C, 81.50; H, 7.98; N, 9.14; C21H24N2.0.25H2O requires C, 81.64; H, 7.99; N, 9.07%); mp 150° C. (from Et2O/hexane); [α]D23+80.0 (c 1.0 in CHCl3); δH (360 MHz; CDCl3) 0.96-1.14 (2H, m, aliphatics), 1.44-1.58 (4H, m, aliphatics), 2.06-2.16 (1H, m, aliphatic), 2.21-2.32 (1H, m, aliphatic), 2.46 (3H, s, CH3), 2.76-2.89 (2H, m, aliphatics), 3.47 (1H, dd, J 13.8 and 3.8, indole CHAHB), 7.14 (1H, m, indole H5), 7.20 (1H, m, indole H6), 7.33-7.38 (2H, m, aromatics), 7.43-7.47 (2H, m, aromatics), 7.57 (2H, d, J 7.1, aromatics), 7.65 (1H, d, J 7.8, aromatic), 8.05 (1H, br s, NH); m/z (ES+) 305 (M++H, 100%).

reactant | 2-phenyl-3-(piperidin-2(R)-ylmethyl)-1H-indole | 3.8 mmol, 1.1 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C[C@@H]1NCCCC1 | C20H22N2
reactant | sodium cyanoborohydride | 3.8 mmol, 238 mg | C(#N)[BH3-].[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | 8.7 mmol, 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 3-(1-methylpiperidin-2(R)-ylmethyl)-2-phenyl-1H-indole | 0.7 mmol, 210 mg, 18% | CN1[C@H](CCCC1)CC1=C(NC2=CC=CC=C12)C1=CC=CC=C1 | C21H24N2
